US07115780B2
(a). N-[2-Benzyloxy-5-({(2S)-2-hydroxy-3-[(1,2,3,4-tetrahydro-2-naphthalenylmethyl)amino]propyl}oxy)-phenyl]methanesulfonamide
A mixture of 770 mg of 4-benzyloxy-3-(N-tert-butoxycarbonyl-N-methylsulfonylamino)-1-((2S)2,3-epoxypropoxy)benzene (1.71 mmol) and 300 mg (1.8 mmol) of 1,2,3,4-tetrahydronaphthalen-2-ylmethylamine, obtained as described in EP-A-436435, in 20 ml of absolute ethanol is heated under reflux for 16 hours. The mixture is cooled, 3 ml of an ethanol solution saturated with hydrochloric acid are added thereto and the medium is heated at 50° C. for 5 hours. The solvent is evaporated and the medium is taken up with a mixture of 50 ml of a saturated sodium bicarbonate solution and 50 ml of ethyl acetate. The organic phase is washed with a saturated aqueous NaCl solution. The organic phase is dried, filtered and the solvent is evaporated under reduced pressure. The crude product is purified by chromatography on a silica gel column, eluting with a methylene chloride/methanol=95/5 mixture. The title compound is obtained in the form of a glassy solid.

reactant | 4-benzyloxy-3-(N-tert-butoxycarbonyl-N-methylsulfonylamino)-1-((2S)2,3-epoxypropoxy)benzene | 1.71 mmol, 770 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@@H]1CO1)N(S(=O)(=O)C)C(=O)OC(C)(C)C | C22H27NO7S
reactant | 1,2,3,4-tetrahydronaphthalen-2-ylmethylamine | 1.8 mmol, 300 mg | C1C(CCC2=CC=CC=C12)CN | C11H15N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | N-[2-Benzyloxy-5-({(2S)-2-hydroxy-3-[(1,2,3,4-tetrahydro-2-naphthalenylmethyl)amino]propyl}oxy)-phenyl]methanesulfonamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@H](CNCC1CC2=CC=CC=C2CC1)O)NS(=O)(=O)C | C28H34N2O5S
